US04444584
Ethyl 2-[4-(6-bromoquinolin-2-yloxy)phenoxy]-propionate (31)
was prepared from 6-bromo-2-chloroquinoline and ethyl 2-(4-hydroxyphenoxy)propionate following essentially the same procedure as that described in Example 1. The compound had a melting point of 85° C.

reactant | 6-bromo-2-chloroquinoline | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | ethyl 2-(4-hydroxyphenoxy)propionate | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
product | Ethyl 2-[4-(6-bromoquinolin-2-yloxy)phenoxy]-propionate | BrC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18BrNO4
